US08202873B2
N-[4-(3,4,5,6-Tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-benzyl]-acetamide
Add TFA (0.6 mL, 7.94 mmol) to a solution of 3′-[4-(Acetylamino-methyl)-phenyl]-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (650 mg, 1.58 mmol) in DCM (6.5 mL) and maintain stirring for 3 hr. Concentrate material to dryness. Redissolve in DCM (10 mL) and add TFA (1.2 mL). Heat reaction mixture at 40° C. for 3 hr. Purify the mixture by SCX-2® ion exchange chromatography, eluting with 2 M NH3 in MeOH to give the title compound as a yellow oil (454 mg, 92%). 1H-NMR (400 MHz, CDCl3) δ 8.14 (d, 1H), 8.08 (d, 1H), 7.90 (d, 2H), 7.36 (d, 2H), 5.81 (bs, 1H), 4.49 (d, 2H), 3.17 (m, 4H), 2.88 (m, 4H), 2.06 (s, 3H).

reactant | TFA | 7.94 mmol, 0.6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 3′-[4-(Acetylamino-methyl)-phenyl]-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 1.58 mmol, 650 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CNC(C)=O | C22H29N5O3
reactant | TFA | 1.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(3,4,5,6-Tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-benzyl]-acetamide | 454 mg, 92% | N1(CCNCC1)C1=NC=CN=C1C1=CC=C(CNC(C)=O)C=C1 | C17H21N5O
